US06610701B2
To thionyl chloride (1 ml), cooled to 0° C. was added N′-(1-o-tolyl-ethylidene)-hydrazinecarboxylic acid ethyl ester. The reaction mixture was heated to 60° C. for 1 h. Solvent evaporation gave 4-o-tolyl-[1,2,3]thiadiazole; 1H NMR (CDCl3, 400 MHz) δ8.51 (s, 1H), 7.65 (d, 1H, J=7.3 Hz), 7.36 (m, 3H), 2.46 (s, 3H).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N′-(1-o-tolyl-ethylidene)-hydrazinecarboxylic acid ethyl ester | C(C)OC(=O)NN=C(C)C1=C(C=CC=C1)C | C12H16N2O2
product | 4-o-tolyl-[1,2,3]thiadiazole | C1(=C(C=CC=C1)C=1N=NSC1)C | C9H8N2S
